US07211601B2
(2S,4EZ)-N-[(1S,2S)-2hydroxy-1-(hydroxymethyl)-2-phenylethyl]-4-(methoxyimino)-1-[4-(4-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-(4-pyridinyl)benzoic acid, and (1S,2S)-2-amino-1-phenyl-1,3-propanediol, the title compound was obtained in 64% purity by HPLC. MS(ESI+): m/z=489.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-(4-pyridinyl)benzoic acid | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | (1S,2S)-2-amino-1-phenyl-1,3-propanediol | N[C@H]([C@@H](O)C1=CC=CC=C1)CO | C9H13NO2
product | (2S,4EZ)-N-[(1S,2S)-2hydroxy-1-(hydroxymethyl)-2-phenylethyl]-4-(methoxyimino)-1-[4-(4-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide | O[C@H]([C@H](CO)NC(=O)[C@H]1N(CC(C1)=NOC)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O)C1=CC=CC=C1 | C27H28N4O5
